US08809369B2
A mixture of 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (3.0 g, 7.96 mmol), lithium hydroxide hydrate (3.34 g, 79.6 mmol), water (10 mL) in methanol (10 mL) and tetrahydrofuran (20 mL) was stirred at 60° C. for 12 h. The mixture was neutralized with a 3 mol/L aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (2.64 g, 95%) as a white solid which was used for next step without further purification: MS (ESI) M+1=350.4.

reactant | 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 7.96 mmol, 3.0 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C(F)(F)F)(C)C | C21H22F3NO2
reactant | lithium hydroxide hydrate | 79.6 mmol, 3.34 g | O.[OH-].[Li+]
reactant | water | 10 mL | O | H2O
reactant | hydrochloric acid | 3 mol/L | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4,4-dimethyl-2-(3-trifluoromethyl-phenyl)-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 2.64 g, 95% | CC1(CC(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC=C1)C(F)(F)F)C | C19H18F3NO2
